
* cell dff
* pin Q
* pin D
* pin clk
* pin vdd
* pin gnd
.SUBCKT dff 2 5 7 16 17
* net 2 Q
* net 5 D
* net 7 clk
* net 16 vdd
* net 17 gnd
* device instance $1 r0 *1 0.2925,1.5425 PMOS_VTG
M$1 13 5 16 16 PMOS_VTG L=0.05U W=0.5U AS=0.0525P AD=0.035P PS=1.21U PD=0.64U
* device instance $2 r0 *1 0.4825,1.5425 PMOS_VTG
M$2 4 7 13 16 PMOS_VTG L=0.05U W=0.5U AS=0.035P AD=0.035P PS=0.64U PD=0.64U
* device instance $3 r0 *1 0.6725,1.5425 PMOS_VTG
M$3 14 1 4 16 PMOS_VTG L=0.05U W=0.5U AS=0.035P AD=0.035P PS=0.64U PD=0.64U
* device instance $4 r0 *1 0.8625,1.5425 PMOS_VTG
M$4 16 6 14 16 PMOS_VTG L=0.05U W=0.5U AS=0.035P AD=0.0851P PS=0.64U PD=1.275U
* device instance $5 r0 *1 1.1575,1.5425 PMOS_VTG
M$5 6 4 16 16 PMOS_VTG L=0.05U W=0.5U AS=0.0851P AD=0.0525P PS=1.275U PD=1.21U
* device instance $6 r0 *1 2.2325,1.4525 PMOS_VTG
M$6 12 7 8 16 PMOS_VTG L=0.05U W=0.25U AS=0.038125P AD=0.0375P PS=0.7U PD=0.8U
* device instance $7 r0 *1 1.7925,1.5775 PMOS_VTG
M$7 15 6 16 16 PMOS_VTG L=0.05U W=0.5U AS=0.0875P AD=0.035P PS=1.245U PD=0.64U
* device instance $8 r0 *1 1.9825,1.5775 PMOS_VTG
M$8 8 1 15 16 PMOS_VTG L=0.05U W=0.5U AS=0.035P AD=0.038125P PS=0.64U PD=0.7U
* device instance $9 r0 *1 1.4975,1.65 PMOS_VTG
M$9 16 7 1 16 PMOS_VTG L=0.05U W=1U AS=0.105P AD=0.0875P PS=2.21U PD=1.245U
* device instance $10 r0 *1 2.3225,2.0175 PMOS_VTG
M$10 12 2 16 16 PMOS_VTG L=0.05U W=0.25U AS=0.055125P AD=0.02625P PS=1.21U
+ PD=0.71U
* device instance $11 r0 *1 2.5825,1.7925 PMOS_VTG
M$11 2 8 16 16 PMOS_VTG L=0.05U W=1U AS=0.055125P AD=0.105P PS=1.21U PD=2.21U
* device instance $12 r0 *1 2.0475,0.3475 NMOS_VTG
M$12 3 2 17 17 NMOS_VTG L=0.05U W=0.25U AS=0.02625P AD=0.02625P PS=0.71U
+ PD=0.71U
* device instance $13 r0 *1 2.5825,0.7125 NMOS_VTG
M$13 2 8 17 17 NMOS_VTG L=0.05U W=0.5U AS=0.0775P AD=0.0525P PS=1.31U PD=1.21U
* device instance $14 r0 *1 0.2925,0.725 NMOS_VTG
M$14 9 5 17 17 NMOS_VTG L=0.05U W=0.25U AS=0.02625P AD=0.0175P PS=0.71U PD=0.39U
* device instance $15 r0 *1 0.4825,0.725 NMOS_VTG
M$15 4 1 9 17 NMOS_VTG L=0.05U W=0.25U AS=0.0175P AD=0.0175P PS=0.39U PD=0.39U
* device instance $16 r0 *1 0.6725,0.725 NMOS_VTG
M$16 10 7 4 17 NMOS_VTG L=0.05U W=0.25U AS=0.0175P AD=0.0175P PS=0.39U PD=0.39U
* device instance $17 r0 *1 0.8625,0.725 NMOS_VTG
M$17 10 6 17 17 NMOS_VTG L=0.05U W=0.25U AS=0.0502P AD=0.0175P PS=0.93U PD=0.39U
* device instance $18 r0 *1 1.1575,0.725 NMOS_VTG
M$18 6 4 17 17 NMOS_VTG L=0.05U W=0.25U AS=0.0502P AD=0.02625P PS=0.93U PD=0.71U
* device instance $19 r0 *1 1.4975,0.6575 NMOS_VTG
M$19 17 7 1 17 NMOS_VTG L=0.05U W=0.5U AS=0.0525P AD=0.04375P PS=1.21U PD=0.745U
* device instance $20 r0 *1 1.7925,0.7825 NMOS_VTG
M$20 11 6 17 17 NMOS_VTG L=0.05U W=0.25U AS=0.04375P AD=0.0175P PS=0.745U
+ PD=0.39U
* device instance $21 r0 *1 1.9825,0.7825 NMOS_VTG
M$21 8 7 11 17 NMOS_VTG L=0.05U W=0.25U AS=0.0175P AD=0.0175P PS=0.39U PD=0.39U
* device instance $22 r0 *1 2.1725,0.7825 NMOS_VTG
M$22 3 1 8 17 NMOS_VTG L=0.05U W=0.25U AS=0.0175P AD=0.0275P PS=0.39U PD=0.72U
.ENDS dff
