
* cell DFF_V2_SHARED_DIFF_P0p95
* pin D
* pin CLK,Q
* pin VDD
* pin VSS
.SUBCKT DFF_V2_SHARED_DIFF_P0p95 2 6 7 8
* net 2 D
* net 6 CLK,Q
* net 7 VDD
* net 8 VSS
* device instance $1 r0 *1 1.675,7 PMOS_VTG
M$1 7 6 6 7 PMOS_VTG L=0.05U W=1.5U AS=0.725P AD=0.775P PS=4.9U PD=5.6U
* device instance $2 r0 *1 2.625,7 PMOS_VTG
M$2 3 2 7 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $3 r0 *1 3.575,7 PMOS_VTG
M$3 6 6 3 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $4 r0 *1 4.525,7 PMOS_VTG
M$4 1 6 6 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $5 r0 *1 5.475,7 PMOS_VTG
M$5 7 6 1 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $7 r0 *1 1.675,5.75 PMOS_VTG
M$7 4 6 7 7 PMOS_VTG L=0.05U W=0.5U AS=0.275P AD=0.225P PS=2.1U PD=1.4U
* device instance $8 r0 *1 2.625,5.75 PMOS_VTG
M$8 6 6 4 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $9 r0 *1 3.575,5.75 PMOS_VTG
M$9 5 6 6 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $10 r0 *1 4.525,5.75 PMOS_VTG
M$10 7 6 5 7 PMOS_VTG L=0.05U W=0.5U AS=0.225P AD=0.225P PS=1.4U PD=1.4U
* device instance $12 r0 *1 1.675,3.05 NMOS_VTG
M$12 4 6 8 8 NMOS_VTG L=0.05U W=0.25U AS=0.1375P AD=0.1125P PS=1.6U PD=1.15U
* device instance $13 r0 *1 2.625,3.05 NMOS_VTG
M$13 6 6 4 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
* device instance $14 r0 *1 3.575,3.05 NMOS_VTG
M$14 5 6 6 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
* device instance $15 r0 *1 4.525,3.05 NMOS_VTG
M$15 8 6 5 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
* device instance $16 r0 *1 5.475,3.05 NMOS_VTG
M$16 6 6 8 8 NMOS_VTG L=0.05U W=0.75U AS=0.3625P AD=0.3875P PS=3.9U PD=4.35U
* device instance $18 r0 *1 2.625,2 NMOS_VTG
M$18 3 2 8 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
* device instance $19 r0 *1 3.575,2 NMOS_VTG
M$19 6 6 3 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
* device instance $20 r0 *1 4.525,2 NMOS_VTG
M$20 1 6 6 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
* device instance $21 r0 *1 5.475,2 NMOS_VTG
M$21 8 6 1 8 NMOS_VTG L=0.05U W=0.25U AS=0.1125P AD=0.1125P PS=1.15U PD=1.15U
.ENDS DFF_V2_SHARED_DIFF_P0p95
